US07608633B2
C. tert-Butyl-1-[2-hydroxy-3-(4-octylphenoxy)propyl]indole-2-carboxylate
0.213 g (0.408 mmol) tert-butyl-1-[2-acetoxy-3-(4-octylphenoxy)propyl]indole-2-carboxylate is dissolved in 10 ml absolute methanol, mixed with 1.64 ml (0.82 mmol) of a 0.5M sodium methanolate solution and stirred at room temperature for 15 min. Following concentration to half the volume on the rotary evaporator, the batch is diluted with diethyl ether. Washing of the organic phase with semi-saturated and with saturated NaCl solution, drying on sodium sulfate, filtration and reconcentration on the rotary evaporator leave as a crude product a yellowish oil which is purified on silica gel by means of column chromatography (flow agent: petroleum ether/ethyl acetate 95:5) and yields the product as a yellowish oil.

reactant | tert-butyl-1-[2-acetoxy-3-(4-octylphenoxy)propyl]indole-2-carboxylate | 0.408 mmol, 0.213 g | C(C)(C)(C)OC(=O)C=1N(C2=CC=CC=C2C1)CC(COC1=CC=C(C=C1)CCCCCCCC)OC(C)=O | C32H43NO5
reactant | sodium methanolate | 0.5M | C[O-].[Na+]
solvent | methanol | 10 ml | CO | CH4O
product | tert-Butyl-1-[2-hydroxy-3-(4-octylphenoxy)propyl]indole-2-carboxylate | C(C)(C)(C)OC(=O)C=1N(C2=CC=CC=C2C1)CC(COC1=CC=C(C=C1)CCCCCCCC)O | C30H41NO4
